US06391915B2
A mixture of (2S)-1-[N-benzyl-(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (0.55 g) and 10% Pd/C (50% wet, 150 mg) in methanol (6 ml) was stirred at room temperature in the presence of hydrogen at an atmospheric pressure for 4 hours and filtered. The filtrate was evaporated in vacuo and the residue was chromatographed (chloroform-ethanol) over silica gel (8 g) to afford (2S)-1-[(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (365 mg) as a pale yellow solid. The solid (109 mg) was treated with 4N hydrogen chloride in ethyl acetate and powdered from ether to afford (2S)-1-[(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol hydrochloride (96 mg) as a colorless amorphous powder.

reactant | (2S)-1-[N-benzyl-(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 0.55 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)C1CC2=C(CCC1)C(=CC=C2)OCC(=O)OCC | C31H37NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6 ml | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (2S)-1-[(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 365 mg | C(C)OC(=O)COC1=CC=CC2=C1CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O | C24H31NO5
